US08802713B2
Then, 1.48 g of ethyl-5-amino-3-ethoxy-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}pyrazole-4-carboxylate was dissolved in 50 mL of tetrahydrofuran, and 0.44 g of tert-butyl nitrite was added under cooling with ice, followed by stirring at room temperature for 12 hours. Then, the solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane=1:4) to obtain 1.18 g of ethyl-3-ethoxy-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}pyrazole-4-carboxylate.

reactant | ethyl-5-amino-3-ethoxy-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}pyrazole-4-carboxylate | 1.48 g | C(C)OC(=O)C=1C(=NN(C1N)C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)OCC | C17H19F4N3O3S
reactant | tert-butyl nitrite | 0.44 g | N(=O)OC(C)(C)C | C4H9NO2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | ethyl-3-ethoxy-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}pyrazole-4-carboxylate | 1.18 g | C(C)OC(=O)C=1C(=NN(C1)C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)OCC | C17H18F4N2O3S
